US07915281B2
N4-{[3-(4-Fluorophenyl)isoxazol-5-yl]methyl}-N2,N2-bis(4-methoxybenzyl)-5,6-dimethylpyridine-2,3,4-triamine (6.00 g, 10.6 mmol), trimethyl orthobutyrate (2.4 g, 16 mmol), concentrated hydrochloride acid (0.2 mL), and toluene (30 mL) were combined and treated according to the method described in Part E of Example 18 with the modification that no additional trimethyl orthobutyrate was added. 1-{[3-(4-Fluorophenyl)isoxazol-5-yl]methyl}-N,N-bis(4-methoxybenzyl)-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-4-amine (2.62 g) was obtained as a yellow solid.

reactant | N4-{[3-(4-Fluorophenyl)isoxazol-5-yl]methyl}-N2,N2-bis(4-methoxybenzyl)-5,6-dimethylpyridine-2,3,4-triamine | 10.6 mmol, 6.00 g | FC1=CC=C(C=C1)C1=NOC(=C1)CNC1=C(C(=NC(=C1C)C)N(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)N | C33H34FN5O3
reactant | trimethyl orthobutyrate | 16 mmol, 2.4 g | C(CCC)(OC)(OC)OC | C7H16O3
reactant | hydrochloride | 0.2 mL | Cl | ClH
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 1-{[3-(4-Fluorophenyl)isoxazol-5-yl]methyl}-N,N-bis(4-methoxybenzyl)-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-4-amine | 2.62 g | FC1=CC=C(C=C1)C1=NOC(=C1)CN1C(=NC=2C(=NC(=C(C21)C)C)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)CCC | C37H38FN5O3
